US07253178B2
1-(2-Bromoethoxy)-2,4-dichlorobenzene
To a solution of 2-(2,4-dichlorophenoxy)-1-ethanol (10.0 g) in 1,2-dimethoxyethane (200 mL) was added dropwise a solution of phosphorous tribromide (14 g) in 1,2-dimethoxyethane (20 mL) under ice-cooling. The reaction solution was stirred at room temperature for 20 hours. After the reaction solution was concentrated, the residue was diluted with water and ethyl acetate. When saturated aqueous sodium hydrogencarbonate solution was added to the organic layer, an emulsion was formed, which was filtered through Celite. The filtrate was diluted with diethyl ether and saturated aqueous ammonium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography to yield the title compound as a pale yellow oil (6.15 g).

reactant | 2-(2,4-dichlorophenoxy)-1-ethanol | 10.0 g | ClC1=C(OCCO)C=CC(=C1)Cl | C8H8Cl2O2
reactant | phosphorous tribromide | 14 g | P(Br)(Br)Br | Br3P
solvent | 1,2-dimethoxyethane | 200 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 1-(2-Bromoethoxy)-2,4-dichlorobenzene | 6.15 g | BrCCOC1=C(C=C(C=C1)Cl)Cl | C8H7BrCl2O
